US07902252B2
4.10. Synthesis of methyl 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate
The title compound was synthesized from methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (0.5 g, 2.79 mmol) and n-propylmagnesium bromide (3.5 mL, 6.97 mmol, 2.0 M in ether, 2.5 equiv) according to General Procedure 3 to give the exocyclic olefin-containing compound (E)-methyl 6-propylidene-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate, followed by hydrogenation according to General Procedure 6, and was purified by column chromatography (Isco CombiFlash) eluting with a gradient of 0-100% EtOAc/heptane to give the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.96 (t, J=7.1 Hz, 3H), 1.35-1.53 (m, 3H), 1.57-1.68 (m, 1H), 1.94-2.09 (m, 1H), 2.47-2.69 (m, 3H), 2.98-3.10 (m, 1H), 3.83 (s, 3H), 6.64 (d, J=1.61 Hz, 1H), 8.69 (br. s, 1H).

reactant | methyl 6-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 2.79 mmol, 0.5 g | O=C1CCC2=C1NC(=C2)C(=O)OC | C9H9NO3
reactant | n-propylmagnesium bromide | 6.97 mmol, 2.0 M, 3.5 mL, 2.5 equiv | C(CC)[Mg]Br
product | methyl 6-propyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | C(CC)C1CCC2=C1NC(=C2)C(=O)OC | C12H17NO2
